US07714009B2
4-[5-Chloro-2-[[7-(dipropylamino)-1-methyl-1H-benzimidazol-2-yl]amino]phenoxy]-N-methylbutanamide Hydrochloride
To a slurry of 20 mg (0.044 mmol) of 4-[5-chloro-2-[[7-(dipropylamino)-1-methyl-1H-benzimidazol-2-yl]amino]phenoxy]butyric acid in 2 mL of tetrahydrofuran was added 25 mg (0.065 mmol) of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU), 19 μL (0.11 mmol) of diisopropylethylamine, and 54 μL (0.11 mmol) of methylamine (2M solution in tetrahydrofuran). The reaction was stirred at room temperature for 3 h, diluted with water and extracted with dichloromethane. The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. The thus obtained residue was purified via preparative TLC eluting with a 75% ethyl acetate/hexanes solution. The isolated product was washed off the silica with 100% ethyl acetate and concentrated in vacuo. The thus obtained residue was dissolved in methanol and hydrochloric acid (1N solution in diethyl ether) was added. The resulting slurry was concentrated in vacuo to give 9.0 mg (44%) of the title compound as the hydrochloric salt.

reactant | 4-[5-chloro-2-[[7-(dipropylamino)-1-methyl-1H-benzimidazol-2-yl]amino]phenoxy]butyric acid | 0.044 mmol, 20 mg | ClC=1C=CC(=C(OCCCC(=O)O)C1)NC1=NC2=C(N1C)C(=CC=C2)N(CCC)CCC | C24H31ClN4O3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.065 mmol, 25 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.11 mmol, 19 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylamine | 0.11 mmol, 2M, 54 μL | CN | CH5N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[5-Chloro-2-[[7-(dipropylamino)-1-methyl-1H-benzimidazol-2-yl]amino]phenoxy]-N-methylbutanamide Hydrochloride | 9.0 mg, 44% | Cl.ClC=1C=CC(=C(OCCCC(=O)NC)C1)NC1=NC2=C(N1C)C(=CC=C2)N(CCC)CCC | InChI=1S/C25H34ClN5O2.ClH/c1-5-14-31(15-6-2)21-10-7-9-20-24(21)30(4)25(29-20)28-19-13-12-18(26)17-22(19)33-16-8-11-23(32)27-3;/h7,9-10,12-13,17H,5-6,8,11,14-16H2,1-4H3,(H,27,32)(H,28,29);1H
